US07550478B2
7-[(methylsulfonyl)amino]-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-yl acetate
To a stirred solution of N-(5-hydroxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide (50 mg, 0.13 mmol) in AcOH (1 mL) was added Ac2O (0.5 mL). The reaction mixture was heated to 120° C. for 1 d, concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.83 (s, 1H); 8.11 (s, 1H); 7.18-7.63 (m, 10H); 6.75 (s, 1H); 3.03 (s, 3H); 2.23 (br s, 3H). LRMS (APCI) calc'd for (C23H21N2O4S) [M+H]+, 421.1; found 421.1.

reactant | N-(5-hydroxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | 0.13 mmol, 50 mg | OC1C2=C(C=CC3=NC=C(C=C31)C3=CC=CC=C3)C=CC(=C2)NS(=O)(=O)C | C21H18N2O3S
reactant | Ac2O | 0.5 mL | CC(=O)OC(=O)C | C4H6O3
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 7-[(methylsulfonyl)amino]-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-yl acetate | C(C)(=O)OC1C2=C(C=CC3=NC=C(C=C31)C3=CC=CC=C3)C=CC(=C2)NS(=O)(=O)C | C23H20N2O4S
